US08026237B2
To a solution of NaOH (0.13 g, 3.2 mmol) in EtOH (10 mL) was added 4-nitrothiophenol (0.50 g, 3.2 mmol) and iodoethane (0.26 mL, 3.2 mmol). After stirring 2h the reaction mixture was added to water (30 mL) and extracted with Et2O (3×25 mL). The combined extracts were washed with satd NH4Cl (3×25 mL) and brine, dried (MgSO4) and concentrated under reduced pressure. The crude material was chromatographed (silica, EtOAc/Hex 0:100 to 30:70) to yield 1-ethylthio-4-nitrobenzene (0.35 g, 59%) as a yellow crystalline solid. 1H-NMR (CDCl3) δ 8.13 (2H, d, J=8.8), 7.32 (2H, d, J=8.8), 3.06 (2H, q, J=7.3), 1.41 (3H, t, J=7.3).

reactant | NaOH | 3.2 mmol, 0.13 g | [OH-].[Na+]
reactant | 4-nitrothiophenol | 3.2 mmol, 0.50 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | iodoethane | 3.2 mmol, 0.26 mL | ICC | C2H5I
reactant | water | 30 mL | O | H2O
solvent | EtOH | 10 mL | CCO | C2H6O
product | 1-ethylthio-4-nitrobenzene | 0.35 g, 59% | C(C)SC1=CC=C(C=C1)[N+](=O)[O-] | C8H9NO2S
